US07449475B2
4-(acetylamino)-3-hydroxyphenyl acetate
2-methyl-1,3-benzoxazol-6-yl acetate (8.1 g, 42.3 mmol) was dissolved in tetrahydrofuran (60 mL), and trifluoroacetic acid (4 mL, 53.2 mmol) was added. The light brown solution was stirred over night at room temperature. Sodium hydrogen carbonate (aq, sat) was added, and the solution was extracted twice with ethyl acetate. The combined organic layers were concentrated to the titled compound (8.0 g, 91%) as a beige solid.

reactant | 2-methyl-1,3-benzoxazol-6-yl acetate | 42.3 mmol, 8.1 g | C(C)(=O)OC1=CC2=C(N=C(O2)C)C=C1 | C10H9NO3
reactant | trifluoroacetic acid | 53.2 mmol, 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-(acetylamino)-3-hydroxyphenyl acetate | C(C)(=O)OC1=CC(=C(C=C1)NC(C)=O)O | C10H11NO4
